US06809199B2
To a stirred solution of 2,4-dibromo-6-(2-chloro-4-fluorophenyl)-5-methylpyridin-3-amine (4.8 g, 12.2 mmol, 1 eq) in THF (50 mL) was added tert-butylnitrite (2.2 mL, 18.25 mmol, 1.5 eq). The mixture was warmed to 60° C. and mild gas evolution was observed. After 1.75 h the heating bath was turned off and the mixture was allowed to stir overnight. Additional tert-butylnitrite (1 mL) was added and the mixture was again warmed to 60° C. After 2 h no starting material was left as assessed by HPLC analysis. The mixture was cooled and the solvent removed under reduced pressure. The product was purified by flash column chromatography on silica gel eluting with 2% Et2O in hexanes to give 4,6-dibromo-2-(2-chloro-4-fluorophenyl)-3-methylpyridine. Mass spectrum (ESI) 378.0 (M+1); 380.0 (M+3); 382.0 (M+5).

reactant | 2,4-dibromo-6-(2-chloro-4-fluorophenyl)-5-methylpyridin-3-amine | 12.2 mmol, 4.8 g, 1 eq | BrC1=NC(=C(C(=C1N)Br)C)C1=C(C=C(C=C1)F)Cl | C12H8Br2ClFN2
reactant | tert-butylnitrite | 18.25 mmol, 2.2 mL, 1.5 eq | C(C)(C)(C)ON=O | C4H9NO2
reactant | tert-butylnitrite | 1 mL | C(C)(C)(C)ON=O | C4H9NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4,6-dibromo-2-(2-chloro-4-fluorophenyl)-3-methylpyridine | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)Cl)C | C12H7Br2ClFN
